US05912256
(2S)-(-)-1-(4-indolyloxy)-3-[4-hydroxy-4-(6-ethoxynaphth-2-yl)piperidine-1-yl]-2-propanol
Beginning with 0.139 gm (0.70 mMol) (S)-(+)-4-(oxiranylmethoxy)-1H-indole and 0.200 gm (0.70 mMol) 4-hydroxy-4-(6-ethoxynaphth-2-yl)piperidine, 0.191 gm (56%) of the title compound were recovered as a white solid by the procedure described in Example 9.

reactant | (S)-(+)-4-(oxiranylmethoxy)-1H-indole | 0.70 mMol, 0.139 gm | O1[C@@H](C1)COC1=C2C=CNC2=CC=C1 | C11H11NO2
reactant | 4-hydroxy-4-(6-ethoxynaphth-2-yl)piperidine | 0.70 mMol, 0.200 gm | OC1(CCNCC1)C1=CC2=CC=C(C=C2C=C1)OCC | C17H21NO2
product | (2S)-(-)-1-(4-indolyloxy)-3-[4-hydroxy-4-(6-ethoxynaphth-2-yl)piperidine-1-yl]-2-propanol | 0.191 gm, 56% | N1C=CC2=C(C=CC=C12)OC[C@H](CN1CCC(CC1)(C1=CC2=CC=C(C=C2C=C1)OCC)O)O | C28H32N2O4
